US07601711B2
4-[2-(4,4-Difluoro-piperidine-1-carbonyl)-5-(4-dimethylamino-piperidine-1-carbonyl)-indol-1-yl]-benzonitrile
The title compound was synthesized in analogy to example 66, from (4,4-difluoro-piperidin-1-yl)-[5-(4-dimethylamino-piperidine-1-carbonyl)-1H-indol-2-yl]-methanone (example 140, intermediate a)), 4-cyanophenylboronic acid, copper(II) acetate and pyridine in dichloromethane, to give the desired product as an off-white foam (22%).

reactant | (4,4-difluoro-piperidin-1-yl)-[5-(4-dimethylamino-piperidine-1-carbonyl)-1H-indol-2-yl]-methanone | FC1(CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CCC(CC1)N(C)C)F | C22H28F2N4O2
reactant | 4-cyanophenylboronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper(II) acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-[2-(4,4-Difluoro-piperidine-1-carbonyl)-5-(4-dimethylamino-piperidine-1-carbonyl)-indol-1-yl]-benzonitrile | 22% | FC1(CCN(CC1)C(=O)C=1N(C2=CC=C(C=C2C1)C(=O)N1CCC(CC1)N(C)C)C1=CC=C(C#N)C=C1)F | C29H31F2N5O2
